2197-03-06 07:52:00 Physician Resident Progress Note
Chief Complaint: fever, cough
   24 Hour Events:
 URINE CULTURE - At [**2197-3-6**] 12:52 AM
   Did not diurese as BPs have been low, 70s.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 216**] Medical [**Name2 (NI) 2499**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2197-3-5**] 09:00 PM
   Cefipime - [**2197-3-5**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-3-5**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   dry weight 140
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2197-3-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 91 (80 - 92) bpm
   BP: 83/59(65) {73/45(53) - 87/60(66)} mmHg
   RR: 31 (21 - 33) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    315 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                    315 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   to mid-fields)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, purpura
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   67 K/uL
   9.0 g/dL
   115 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   33 mg/dL
   101 mEq/L
   135 mEq/L
   27.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
   WBC
   9.0
   Hct
   25.8
   27.8
   Plt
   67
   Cr
   1.3
   TropT
   0.22
   Glucose
   115
   Other labs:
   PT / PTT / INR : 13.4 / 30.8 / 1.1,
   CK / CKMB / Troponin-T:48/8/ 0.29
 0.22
   ALT / AST:18/41, Alk Phos / T Bili: 103/0.5,
   Differential-Neuts:35.3 %, Lymph:5.1 %, Mono:3.9 %, Eos:55.6 %,
   Albumin:3.6 g/dL, LDH:645 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: creatinine trending down
   BNP [**Numeric Identifier 11560**]
   FeUrea 35%
   Microbiology: sputum from [**3-5**] contaminated
   Assessment and Plan
   Pt is a 60 y.o male with h.o hypereosinophilic syndrome on chemo
   (etoposide), DVT, CVA, afib, CHF EF (EF 30%), who presents with fever,
   cough, found to be "hypoxic" and "hypotensive" in the ED.
   .
   # fever/cough/hypoxia-Pt with known eosinophilic syndrome,
   immunosuppressed on chemotherapy. He was recently admitted to the
   hospitalist service [**Date range (3) 11546**] with pulmonary and ID following. He
   was started on voriconazole, azithro and cefepime. ABx except for vori
   were discontinued. He was ruled out for TB. The cause was thought to be
   fungal/parasitic/reoccurrence of hypereosinophilic syndrome. BAL was
   negative for growth at the time. Recently AFB was positive for non-TB.
   Etiologies for the above presentation include, CAP, viral respiratory
   pathogen such as influenza/paraflu, or other infection that occurs in
   the immunocompromised state such as fungal/MAC. Other things to be
   considered include CHF, PE or exacerbation of eosinophilic condition.
   -sputum cx
   -bcx/ucx
   -consider repeat bronch/bal
   -broad spectrum abx for now given immunosuppression
   -flu swab
   -diuresis with lasix gtt.
   -consider repeat echo
   -LENI to eval for DVT, heparin if clinical scenario indicates.
   -ID c/s.
   -fungal cx
   .
   #hypereosinophilic syndrome-Details above. Pt currently tx with
   etoposide Q2 weeks. Current presentation could be related to this
   syndrome.
   -heme/onc recs
   -consider bal for eosinophils
   .
   #hypotension-Pt with BP mid 80's at baseline per heme/onc fellow.
   Similar in the ED. Pt given 800cc fluid. Likely related to CHF (EF 30%)
   vs. possible infection/SIRS criteria.
   -pan cx as above
   -echo
   -lasix gtt
   -consider IVF boluses  for persistant hypotension.
   .
   #ARF-baseline 1-1.4. Currently 1.8. Likely related to pre renal state
   given fever, signs of CHF and poor forward flow. Can also consider
   intrarenal and post renal etiologies.
   -ulytes
   -ua and cx
   -u eos
   -renally dose meds, avoid nephrotoxins
   .
   #CHF-EF 30%. Currently with elevated trop and BNP.
   -ROMI
   -repeat ECHO
   -i/o s
   -lasix gtt.
   -asa
   .
   #blood per rectum-seen on toilet paper while on commode. PT did not
   notice symptoms at home.
   -guaiac stools
   -active T+S
   -serial HCTS.
   .
   #s/p CVA-supportive care
   .
   #afib-rate controlled.
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOXEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2197-03-07 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.2
F - [**2197-3-6**] 11:46 PM
   [**3-6**]
   - Added levo for atypical coverage
   - CT head: No acute intracranial abnormalities. Hypodensities in
   bilateral PCA and left MCA regions, compatible with chronic infarcts at
   these sites. Age-related parenchymal atrophy. Extensive paranasal sinus
   mucosal thickening.
   - CT chest - radiologists concerned new bl diffuse ground glass
   opacities and patchy consolidations concern for massive infection, ddx
   includes ARDS or massive hemorrhage
   - Flu swab positive for RSV per virology
   - Discussed w/ ID re: monoclonal abx, efficacy unproven in this setting
   also has high sorbitol load concerning given his renal failure.
   Continued abx regimen (levo/vanc/cefepime) and held off on monoclonoal
   abs
   - Spiked to 101, pan-cultured, remained on 5L w/ sats mid 90s so
   continued abx
   - Hem/onc recommending diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-3-6**] 08:20 AM
   Valgancyclovir - [**2197-3-6**] 08:20 AM
   Levofloxacin - [**2197-3-6**] 09:38 AM
   Voriconazole - [**2197-3-6**] 07:38 PM
   Vancomycin - [**2197-3-6**] 07:39 PM
   Cefipime - [**2197-3-6**] 09:10 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2197-3-6**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2197-3-6**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 120 (88 - 120) bpm
   BP: 101/57(74) {78/46(57) - 101/67(90)} mmHg
   RR: 35 (25 - 43) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                    900 mL
                                                                    310 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    540 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    150 mL
   Urine:
                                                                  1,000 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///22/
   Physical Examination
   GEN: Elderly gentleman, tachypneic, alert/oriented.
   CV: Tachycardic, SM at apex, JVP mildly elevated
   PULM: tachypneic, Bl crackles appreciated on anterior breath sounds.
   ABD: Soft NTND +BS
   EXT: No edema, +petechiae
   Labs / Radiology
CT Head:
   1. No acute intracranial abnormalities. However, MRI would be more
   sensitive
   if there is concern for acute infarct.
   2. Hypodensities in bilateral PCA and left MCA regions, compatible with
   chronic infarcts at these sites.
   3. Age-related parenchymal atrophy.
   4. Extensive paranasal sinus mucosal thickening.
GRAM STAIN (Final [**2197-3-6**]):
      [**11-13**] PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2197-3-6**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   67 K/uL
   9.0 g/dL
   115 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.4 mEq/L
   28 mg/dL
   102 mEq/L
   136 mEq/L
   27.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
   WBC
   9.0
   Hct
   25.8
   27.8
   Plt
   67
   Cr
   1.3
   1.2
   TropT
   0.22
   0.26
   Glucose
   115
   115
   Other labs: PT / PTT / INR:13.4/30.8/1.1, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:18/41, Alk Phos / T Bili:103/0.5,
   Differential-Neuts:35.3 %, Lymph:5.1 %, Mono:3.9 %, Eos:55.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Pt is a 60 y.o male with h.o hypereosinophilic syndrome on chemo
   (etoposide), DVT, CVA, afib, CHF EF (EF 30%), who presents with fever,
   cough, hypoxia and hypotension.
   1. Hypoxic Respiratory Failure: Worsening and progressive hypoxemia and
   respiratory failure and diffuse infectious infiltrates. He is with
   known eosinophilic syndrome, immunosuppressed on chemotherapy. Resp
   viral screen positive for RSV, sputum has preliminarily grown GPC, GPR,
   and GNR, and urine leg neg.  DFA negative for PCP. [**Name10 (NameIs) **] currently,
   on levo, cefepime, vanc, and vori to cover bacterial and fungal pna
   (recently has grown penicillium species in culture).  Also, with
   elevated BNP element of CHF exacerbation w/ volume overload.  PE also
   on the differential, though less likely given viral findings as above.
   Primary problem is sepsis from pulmonary infection likely RSV with
   possible bacterial superinfection, do not suspect cardiogenic shock.
   - Resend sputum
   - F/u sputum, blood and urine cx
   - Cont cefepime/vanc/vori/levofloxacin
   - Lasix 40 iv x1, goal diuresis negative 1L
   - Consider further diuresis if pt improves after diuresis
   - Repeat echo to eval for changing EF
   - Consider IV antibody paviluzameb as last resort effort
   - Incentive spirometry, guiafenesin, tesslon pearls to clear mucous,
   - Appreciate hem/onc input
   - Place picc line for better access/iv abx
   2. Hypotension: Baseline in mid 80s, currently sbp in low 100s.  Will
   continue to follow given concern for SIRS/CHF.  Cortisol wnl.
   - While diuresing neg 1L will need to monitor hemodynamics
   - Consider pressors if develops worse hypotension and would avoid more
   fluids
   - Consider placing central line or evaluating w/ US to obtain CVP if
   hypotension worsens
   3. hypereosinophilic syndrome- Currently tx with etoposide Q2 weeks.
   - f/u heme/onc recs
   4. ARF-baseline 1-1.4: Resolved with IVFs.
   - Monitor creatinine
   5. CHF-EF 30%. Secondary to eosinophilic syndrome. Currently with
   elevated trop and BNP.  Likely contributing to current respiratory
   failure with element of volume overload. Dry weight is 140 lbs. Has r/o
   for MI w/ three stable CE.
   - f/u ECHO
   - strict Is and Os, daily weights
   - Lasix iv per above
   6. Blood per rectum-seen on toilet paper while on commode. Hct stable
   - guaiac stools
   - active T+S
   - Monitor HCTS.
   7. s/p CVA-CT head negative for ischemic/hemorrhagic event.
   8. afib-stable
   9. Tachycardia: Sinus tach. Likely secondary to sepsis.
   - Monitor
   - If becomes hypotensive and in a fib in RVR would consider rate
   control as opposed to ianotropy to maintain BP
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-5**] 07:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient and patient
s wife
   [**Name (NI) 156**] status: DNR/DNI
   Disposition: ICU

2197-03-07 10:49:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M h/o hypereosinophilic syndrome tx with etoposide, h/o CVA, a-fib,
   CHF (EF 30% 8/09), [**Last Name (un) **] syndrome with recent admission for
   cavitating lesion of lung, FOB/BAL(now growing, AFB, non-MTB, and
   penicillium species but final probe pending) admitted sepsis (sputum,
   fever, hypotension, hypoxia)
   24 Hour Events:
 FEVER - 101.2
F - [**2197-3-6**] 11:46 PM
   flu + RSV
   chest imaging with diffuse progressive process b and rul abscess
   (known, smaller)
   increasing O2 requirements
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-3-6**] 08:20 AM
   Valgancyclovir - [**2197-3-6**] 08:20 AM
   Levofloxacin - [**2197-3-6**] 09:38 AM
   Voriconazole - [**2197-3-6**] 07:38 PM
   Vancomycin - [**2197-3-6**] 07:39 PM
   Cefipime - [**2197-3-7**] 07:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-3-6**] 10:11 PM
   Morphine Sulfate - [**2197-3-7**] 09:05 AM
   Furosemide (Lasix) - [**2197-3-7**] 09:33 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-7**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 122 (88 - 131) bpm
   BP: 99/62(71) {78/46(57) - 106/72(90)} mmHg
   RR: 40 (27 - 44) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                    900 mL
                                                                    563 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    350 mL
   Urine:
                                                                  1,000 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.50/31/68/22/1
   PaO2 / FiO2: 68
   Physical Examination
   Cardiovascular: tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ), tachypenic
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   73 K/uL
   89 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.6 mEq/L
   28 mg/dL
   101 mEq/L
   134 mEq/L
   28.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
   WBC
   9.0
   10.2
   Hct
   25.8
   27.8
   28.0
   Plt
   67
   73
   Cr
   1.3
   1.2
   1.2
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   Other labs: PT / PTT / INR:14.4/32.6/1.3, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:18/41, Alk Phos / T Bili:103/0.5,
   Differential-Neuts:21.0 %, Band:0.0 %, Lymph:5.0 %, Mono:2.0 %,
   Eos:72.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Microbiology: sputum with gpc/gnr
   Assessment and Plan
   60M h/o hypereosinophilic syndrome tx with etoposide, h/o CVA, afib,
   CHF (EF 30% 8/09), [**Last Name (un) **] syndrome with recent admission for
   cavitating lesion of lung, FOB/BAL(now growing, AFB, non-MTB, and
   penicillium species but final probe pending) w/ hypoxic resp failure
   and sepsis
   # Sepsis: baseline BPs in the 80s-90s per family and Oncology team, now
   at baseline, still  tachy and low-grade temps, so still meeting sespsis
   criteria.  Also with low EF, but does not appear grossly overloaded on
   exam now.
   - continue judicious IVF prn hypotension
   - consider [**Last Name (un) **] stim/ stress dose steroids if hypotension
   - f/up blood cultures, flu swab
   - induced sputum for gs/cx/fungal/PCP/AFB
   - check urine legionella
   Broad antbx
   # hypoxic resp failure
Pneumonitis.  High suspcion this is viral from
   RSV, probable bacterial superinfection, does not appear to have
   significant component of volume overload with insensible losses and neg
   fluid balance. No evidence of hemorrhage and dfa neg for PCP.  ? med
   related, etoposide.
   --diuresed gently with good UOP response.
   --cont broad antbx coveragere address utilityt of monoclonal ab
   treatment with ID team
   2. Cavitary lung nodule: seen on prior imaging, s/p FOB with BAL and
   biopsy, now growing, AFB, non-MTB, and penicillium species but final
   probe pending.
   - continue voriconazole, appears slightly smaller on repeat CT
   3. Hypereosinophilic syndrome:
    continue prednisone and bactrim and valgancyclovir prophylaxis
   4. CHF: BNP high on admission,  trop up but CK nl consistent with
   strain. EKG unchanged.
   -careful fluid management  and repeat bnp
   -repeat TTE
   -If requires pressors, levophed or dobutamine/neo to help with cardiac
   output
   # tachycardia
   Likely driven by resp distress/failure
   f/u TTE
   # ARF: Cr up to 1.8 on admit, improving with IVF
   - monitor UOP and urine lytes
    7. Cultures + for RSV
 will consult ID about therapeutic options. CT
   does reveal very extensive infiltrates with diffuse pattern.
   Remainder of plan per resident note.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-5**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2197-03-08 07:28:00 Physician Resident Progress Note
Chief Complaint: hypoxemia, RSV
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2197-3-7**] 10:39 AM
   - TTE: Compared with the prior study LV cavity is slightly smaller and
   the severity of mitral regurgitation and pulmonary artery systolic
   pressure are slightly reduced. Regional left ventricular systolic
   function is similar (30%).
   - Repeating BNP to see if changed
   - Gave a second shot of lasix 40mg IV ONCE at 1830
   - ID recommended giving anti-RSV antibody
   - DC'd valgan and levoflox per ID recs
   - Explained the risks of ab to wife and pt who decided to think about
   it. They had questions about the procedure they wanted to talk to Dr.
   [**Last Name (STitle) 11599**] about. They also wanted to know if the insurance company
   would pay for it since it costs 15,000 dollars.
   - Drug check: Neither valcyte or voriconazole cause pneumonitis
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2197-3-6**] 08:20 AM
   Bactrim (SMX/TMP) - [**2197-3-6**] 08:20 AM
   Levofloxacin - [**2197-3-6**] 09:38 AM
   Voriconazole - [**2197-3-6**] 07:38 PM
   Vancomycin - [**2197-3-7**] 09:00 PM
   Cefipime - [**2197-3-7**] 10:30 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2197-3-7**] 09:05 AM
   Furosemide (Lasix) - [**2197-3-7**] 06:41 PM
   Heparin Sodium (Prophylaxis) - [**2197-3-7**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 108 (94 - 131) bpm
   BP: 91/64(70) {78/40(50) - 106/72(79)} mmHg
   RR: 25 (23 - 44) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                  1,170 mL
                                                                     74 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                    590 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    325 mL
   Urine:
                                                                  1,350 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.50/31/68/21/1
   PaO2 / FiO2: 68
   [image002.gif]
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   8.9 g/dL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   40 mg/dL
   94 mEq/L
   129 mEq/L
   27.6 %
   8.5 K/uL
        [image004.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
   WBC
   9.0
   10.2
   8.5
   Hct
   25.8
   27.8
   28.0
   27.6
   Plt
   67
   73
   80
   Cr
   1.3
   1.2
   1.2
   1.6
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   Other labs: PT / PTT / INR:16.3/40.1/1.4, Differential-Neuts:21.0 %,
   Band:0.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:78.0 %, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   BNP
   [1][**2197-3-7**] 04:28AM
                                   [**Numeric Identifier 11600**]*
   [2][**2197-3-5**] 12:10PM
                                   [**Numeric Identifier 11545**]*
   Imaging:
   ECHO
   The left atrium is mildly dilated. The right atrium is moderately
   dilated. Left ventricular wall thicknesses and cavity size are normal.
   There is mild regional left ventricular systolic dysfunction with basal
   inferior mild dyskinesis and more distal akinesis as well as akinesis
   of the distal lateral wall. There is mild hypokinesis of the remaining
   segments (LVEF = 30%). No masses or thrombi are seen in the left
   ventricle. The diameters of aorta at the sinus, ascending and arch
   levels are normal. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. The posterior leaflet
   is relatively fixed/immobile. Moderate (2+) mitral regurgitation is
   seen. The tricuspid valve leaflets are mildly thickened. There is mild
   pulmonary artery systolic hypertension. Significant pulmonic
   regurgitation is seen. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2196-8-30**], the left
   ventricular cavity is slightly smaller and the severity of mitral
   regurgitation and pulmonary artery systolic pressure are slightly
   reduced. Regional left ventricular systolic function is similar.
   Microbiology:
[**2197-3-6**] 11:27 am SPUTUM      Source: Induced.
   GRAM STAIN (Final [**2197-3-6**]):
      [**11-13**] PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.    IN PAIRS AND CLUSTER
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
RESPIRATORY CULTURE (Preliminary):  MODERATE GROWTH Commensal Respiratory Flora.
NEGATIVE for Pneumocystis jirovecii (carinii)..
ACID FAST SMEAR (Final [**2197-3-7**]): NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEA
    ACID FAST and fungal cultures pending
   No growth in urine or blood
   Legionella negative
   Assessment and Plan
 HYPOXEMIA
 ALKALOSIS, RESPIRATORY
 PNEUMONIA, VIRAL
   RSV
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Hypereosinophilia
 ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Pt is a 60 y.o male with h.o hypereosinophilic syndrome on chemo
   (etoposide), DVT, CVA, afib, CHF EF (EF 30%), who presents with fever,
   cough, hypoxia and hypotension.
   1. Hypoxic Respiratory Failure: Worsening and progressive hypoxemia and
   respiratory failure and diffuse infectious infiltrates. He is with
   known eosinophilic syndrome, immunosuppressed on chemotherapy. Resp
   viral screen positive for RSV, sputum has preliminarily grown GPC, GPR,
   and GNR, and urine leg neg.  DFA negative for PCP. [**Name10 (NameIs) **] currently,
   on levo, cefepime, vanc, and vori to cover bacterial and fungal pna
   (recently has grown penicillium species in culture).  Also, with
   elevated BNP element of CHF exacerbation w/ volume overload.  PE also
   on the differential, though less likely given viral findings as above.
   Primary problem is sepsis from pulmonary infection likely RSV with
   possible bacterial superinfection, do not suspect cardiogenic shock.
   - Resend sputum
   - F/u sputum, blood and urine cx
   - Cont cefepime/vanc/vori/levofloxacin
   - Lasix 40 iv x1, goal diuresis negative 1L
   - Consider further diuresis if pt improves after diuresis
   - Repeat echo to eval for changing EF
   - Consider IV antibody paviluzameb as last resort effort
   - Incentive spirometry, guiafenesin, tesslon pearls to clear mucous,
   - Appreciate hem/onc input
   - Place picc line for better access/iv abx
   2. Hypotension: Baseline in mid 80s, currently sbp in low 100s.  Will
   continue to follow given concern for SIRS/CHF.  Cortisol wnl.
   - While diuresing neg 1L will need to monitor hemodynamics
   - Consider pressors if develops worse hypotension and would avoid more
   fluids
   - Consider placing central line or evaluating w/ US to obtain CVP if
   hypotension worsens
   3. hypereosinophilic syndrome- Currently tx with etoposide Q2 weeks.
   - f/u heme/onc recs
   4. ARF-baseline 1-1.4: Resolved with IVFs.
   - Monitor creatinine
   5. CHF-EF 30%. Secondary to eosinophilic syndrome. Currently with
   elevated trop and BNP.  Likely contributing to current respiratory
   failure with element of volume overload. Dry weight is 140 lbs. Has r/o
   for MI w/ three stable CE.
   - f/u ECHO
   - strict Is and Os, daily weights
   - Lasix iv per above
   6. Blood per rectum-seen on toilet paper while on commode. Hct stable
   - guaiac stools
   - active T+S
   - Monitor HCTS.
   7. s/p CVA-CT head negative for ischemic/hemorrhagic event.
   8. afib-stable
   9. Tachycardia: Sinus tach. Likely secondary to sepsis.
   - Monitor
   - If becomes hypotensive and in a fib in RVR would consider rate
   control as opposed to ianotropy to maintain BP
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2197-3-5**] 07:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient and patient
s wife
   [**Name (NI) 156**] status: DNR/DNI
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2197-03-08 11:48:00 Physician Attending Progress Note
Chief Complaint:sepsis, hypoxemia, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  60M h/o hypereosinophilic syndrome tx with etoposide, h/o CVA,
   a-fib, CHF (EF 30% 8/09), [**Last Name (un) **] syndrome with recent admission for
   cavitating lesion of lung, FOB/BAL(now growing AFB, non-MTB, and
   penicillium species but final probe pending) admitted w/ sepsis (fever,
   hypotension, hypoxia) and progressive bl ASD.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2197-3-7**] 10:39 AM
   Diuresed
   pt and family declined pavilizumab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2197-3-6**] 08:20 AM
   Levofloxacin - [**2197-3-6**] 09:38 AM
   Voriconazole - [**2197-3-6**] 07:38 PM
   Vancomycin - [**2197-3-7**] 09:00 PM
   Cefipime - [**2197-3-8**] 08:00 AM
   Bactrim (SMX/TMP) - [**2197-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-3-7**] 06:41 PM
   Heparin Sodium (Prophylaxis) - [**2197-3-8**] 08:00 AM
   Omeprazole (Prilosec) - [**2197-3-8**] 08:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-8**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 106 (94 - 108) bpm
   BP: 89/58(66) {78/40(50) - 94/72(77)} mmHg
   RR: 29 (23 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                  1,170 mL
                                                                    165 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    475 mL
   Urine:
                                                                  1,350 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   More comfortable appearing, alert
   Rales bl
   RR, tachy
   + BS, soft, NT
   No edema
   Labs / Radiology
   8.9 g/dL
   80 K/uL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   40 mg/dL
   94 mEq/L
   129 mEq/L
   27.6 %
   8.5 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
   WBC
   9.0
   10.2
   8.5
   Hct
   25.8
   27.8
   28.0
   27.6
   Plt
   67
   73
   80
   Cr
   1.3
   1.2
   1.2
   1.6
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   Other labs: PT / PTT / INR:16.3/40.1/1.4, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:18/41, Alk Phos / T Bili:103/0.5,
   Differential-Neuts:21.0 %, Band:0.0 %, Lymph:1.0 %, Mono:0.0 %,
   Eos:78.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: BNP 16K
   Microbiology: --induced sputum mod resp florse growth, gpc on gs, 2+
   gpr, 1+ gnr
   bl/urine ngtd
   Assessment and Plan
   Active issues include:
   # Hypoxic resp failure
remains hypoxic, but subjectively more
   comfortable and requiring less supplemental O2.  Suspect pneumonitis
   from RSV is primary issue, with possibly bacterial superinfection, and
   component of volume overload (cardiogenic and noncardiogenic)
   --supportive care with cough suppression, nebs, consider NPPV if
   fatigues
   --diuresis (goal 1L neg)
   - continue broad empiric antbx to compelte course
   #hypotension
Initially met Sirs/sepsis criteria.  BP now improved from
   admit and at baseline
   #CHF
diurese, holidng ace-I given cr elevation
   # tachycardia
   Likely driven by resp distress/failure
   Continues to improve
   # ARF: cr up, likely from poor forward flow, may improve with diuresis
   -    Will monitor UOP and trend
   -    resume ace-when cr improves
   # Cavitary lung nodule: s/p FOB with BAL and biopsy, now growing, AFB,
   ----non-MTB, and penicillium species, final probe pending.
   --continue voriconazole
   # Hypereosinophilic syndrome:
    continue prednisone and bactrim prophylaxis
   defer further treatment to onc pending clinical improvement from acute
   resp issues
   Remainder of plan per resident note.
   ICU Care
   Nutrition: would consult nutrition, encourage POs, ensure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2197-3-5**] 07:00 PM
   Prophylaxis: , picc placement
   DVT: Boots, sq hep
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  family updated and all questions answered.
   Arrnaging for additional meeting with onc at family request.
   Code status: DNR / DNI
   Disposition :ICU for now, improving and probable floor transfer
   tomorrow
   Total time spent: during rounds, clinical discussion and family
   meeting: 80 min
   Patient is critically ill

2197-03-09 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2197-3-8**] 03:00 PM
   - Overnight received 40mg iv lasix at 0200AM for worsening hypoxia and
   increased O2 requirement
   - I/O - 535 + large amount inc from condom cath
   - PICC placed
   - c/o vision changes. may be [**2-21**] codeine, monitoring for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2197-3-6**] 08:20 AM
   Levofloxacin - [**2197-3-6**] 09:38 AM
   Voriconazole - [**2197-3-6**] 07:38 PM
   Bactrim (SMX/TMP) - [**2197-3-8**] 08:00 AM
   Vancomycin - [**2197-3-8**] 07:30 PM
   Cefipime - [**2197-3-8**] 07:31 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2197-3-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-3-8**] 02:00 PM
   Furosemide (Lasix) - [**2197-3-9**] 02:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-9**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 91 (91 - 120) bpm
   BP: 75/52(57) {75/52(57) - 99/85(88)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                    790 mL
                                                                     68 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    540 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    100 mL
   Urine:
                                                                  1,325 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -535 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   9.0 g/dL
   98 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   51 mg/dL
   94 mEq/L
   130 mEq/L
   26.9 %
   11.1 K/uL
        [image002.jpg]
   SPUTUM ([**3-6**])
GRAM STAIN (Final [**2197-3-6**]):
      [**11-13**] PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2197-3-8**]):
      MODERATE GROWTH Commensal Respiratory Flora.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2197-3-6**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2197-3-7**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Preliminary):
ECHO:
The left atrium is mildly dilated. The right atrium is moderately dilated. Left
ventricular wall thicknesses and cavity size are normal. There is mild regional
left ventricular systolic dysfunction with basal inferior mild dyskinesis and mo
re distal akinesis as well as akinesis of the distal lateral wall. There is mild
 hypokinesis of the remaining segments (LVEF = 30%). No masses or thrombi are se
en in the left ventricle. The diameters of aorta at the sinus, ascending and arc
h levels are normal. The aortic valve leaflets (3) are mildly thickened but aort
ic stenosis is not present. No aortic regurgitation is seen. The mitral valve le
aflets are mildly thickened. The posterior leaflet is relatively fixed/immobile.
 Moderate (2+) mitral regurgitation is seen. The tricuspid valve leaflets are mi
ldly thickened. There is mild pulmonary artery systolic hypertension. Significan
t pulmonic regurgitation is seen. There is no pericardial effusion.
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
                             [**2197-3-8**]  11:01 PM
                             [**2197-3-9**]  04:01 AM
   WBC
   9.0
   10.2
   8.5
   11.1
   Hct
   25.8
   27.8
   28.0
   27.6
   26.9
   Plt
   67
   73
   80
   90
   Cr
   1.3
   1.2
   1.2
   1.6
   1.6
   1.8
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   106
   98
   Other labs: PT / PTT / INR:18.4/45.5/1.7, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:18/41, Alk Phos / T Bili:103/0.5,
   Differential-Neuts:21.0 %, Band:0.0 %, Lymph:1.0 %, Mono:0.0 %,
   Eos:78.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPOXEMIA
 ALKALOSIS, RESPIRATORY
 PNEUMONIA, VIRAL
   RSV
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Hypereosinophilia
 ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Pt is a 60 y.o male with h.o hypereosinophilic syndrome on chemo
   (etoposide), DVT, CVA, afib, CHF EF (EF 30%), who presents with fever,
   cough, hypoxia and hypotension.
   #. Hypoxic Respiratory Failure: Worse today, likely primarily secondary
   to progressive infection (RSV). CHF exacerbation another cocontributor
   but less likely.  Continues to require supplemental oxygen despite
   diuresis and antibiotics for superimposed infection. Resp viral screen
   positive for RSV, sputum has preliminarily grown GPC, GPR, and GNR, and
   urine leg neg.  DFA negative for PCP. [**Name10 (NameIs) **] currently, cefepime,
   vanc, and vori to cover bacterial and fungal pna (recently has grown
   penicillium species in culture).  He has refused monoclonal antibody.
   Cont to consider PE, though less likely. Pt is probably intravascularly
   dry now.
   - CXR
   - Repeat sputum
   - F/u sputum, blood, CMV and urine cx
   - Cont cefepime/vanc ([**3-5**] for 14 day course) and vori (for fungal
   infx)
   - Consider adding a second antibiotic [**Doctor Last Name **] for double gram negative
   coverage
   - Hold on Lasix, with goal of even fluids
   - Patient has refused IV antibody paviluzameb
   - Incentive spirometry, guiafenesin, tesslon pearls to clear mucous
   - Appreciate hem/onc input
   # Leukocytosis: Elevated WBC count today, though patient has been
   afebrile. UA notable for pyuria/bacturia, currently on vanc/cefepime.
   - Pan culture with stool, blood, urine, and sputum
   - CXR today, f/u final report
   - Follow up urine cx and stool cx r/o c diff
   #. Hypotension: Baseline in mid 80s
   - Cont to monitor hemodynamics, blood pressures appear to be stable and
   at his baseline.
   - Continue to hold home BP meds,
   #. hypereosinophilic syndrome- Currently tx with etoposide Q2 weeks.
   - f/u heme/onc recs
   - cont prednisone
   #. ARF-baseline 1-1.4: Elevated Cr to 1.8 s/p diuresis. Evidence of
   granular casts/cellular casts and possible UTI. No flank pain and
   afebrile to suggest pyelo.
   - Monitor creatinine
   - Judicious diuresis, goal will be net even
   - Hold ace-i
   #. CHF-EF 30%. Secondary to eosinophilic syndrome. On admission,
   patient w/ some evidence of volume overload now s/p diuresis with some
   improvement in shortness of breath, though CXR continues to show
   diffuse infiltrates and patient remains with oxygen requirement.  Have
   contact[**Name (NI) **] outpatient cardiologist who agrees w/ diuresis and holding
   anti-hypertensives for now.
   - strict Is and Os, daily weights
   - Continue holding ace-i/bb given low bps as well as ARF for ace-i
   - hold diuresis as pt likely volume deplete to goal even
   #. s/p CVA-CT head negative for ischemic/hemorrhagic event.
   #. afib-stable
   #. Tachycardia: Sinus tach, stable. Secondary to hypoxia, infx.
   - Monitor
   # Mood/Nutrition: Poor po intake worse since admission.  Per wife,
   concerned that patient is giving up, and is frustrated.
   - Consider mertazapine for mood and poor appetite
   - Add ensure tid w/ meals
   - Nutrition consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-3-8**] 03:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Physical Exam:
   Pulm: + exp wheezes and anterior crackles; CV: tachy, No JVD; Abdom:
   Soft NT/ND; Neuro: Alert, oriented follows commands
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11565**], MD
   on:[**2197-3-9**] 12:56 ------

2197-03-09 12:03:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp distress/hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  60M h/o hypereosinophilic syndrome tx with etoposide, h/o CVA,
   a-fib, CHF (EF 30% 8/09), [**Last Name (un) **] syndrome with recent admission for
   cavitating lesion of lung, FOB/BAL(now growing AFB, non-MTB, and
   penicillium species but final probe pending) admitted w/ sepsis (fever,
   hypotension, hypoxia) and progressive bl ASD.
   24 Hour Events:
 PICC LINE - START [**2197-3-8**] 03:00 PM
   diuresed with lasix
   more hypoxic overnight with increased FIO2 requirement
 weaning slowly
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-3-8**] 08:00 AM
   Vancomycin - [**2197-3-8**] 07:30 PM
   Voriconazole - [**2197-3-9**] 08:00 AM
   Cefipime - [**2197-3-9**] 08:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-3-9**] 02:11 AM
   Heparin Sodium (Prophylaxis) - [**2197-3-9**] 08:00 AM
   Omeprazole (Prilosec) - [**2197-3-9**] 08:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-9**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.9
C (96.6
   HR: 99 (91 - 120) bpm
   BP: 85/58(64) {70/48(53) - 99/85(88)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 63.7 kg
             Total In:
                                                                    790 mL
                                                                    407 mL
   PO:
                                                                    250 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    100 mL
   Urine:
                                                                  1,325 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -535 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Alert, flat affect, NAD
   Rales with scant exp wheeze
   RR
   + BS, NT, soft
   Labs / Radiology
   9.0 g/dL
   90 K/uL
   98 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   51 mg/dL
   94 mEq/L
   130 mEq/L
   26.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
                             [**2197-3-8**]  11:01 PM
                             [**2197-3-9**]  04:01 AM
   WBC
   9.0
   10.2
   8.5
   11.1
   Hct
   25.8
   27.8
   28.0
   27.6
   26.9
   Plt
   67
   73
   80
   90
   Cr
   1.3
   1.2
   1.2
   1.6
   1.6
   1.8
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   106
   98
   Other labs: PT / PTT / INR:18.4/45.5/1.7, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:18/41, Alk Phos / T Bili:103/0.5,
   Differential-Neuts:10.0 %, Band:0.0 %, Lymph:2.0 %, Mono:1.0 %,
   Eos:87.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr with diffuse bl asd, no effusions, unchanged
   Microbiology: cmv pending
   urine cx
   Assessment and Plan
   # Hypoxic resp failure
 Pneumonitis from RSV, possibly bacterial
   superinfection,
   He is hypoxic, requiring more FIO2 despite diuresis. CXR appears
   unchanged with diffuse ASD/no effusions. At this time feel cardiogenic
   pulm edema is unlikely to be contibuting.
   --Continue supportive care with cough suppression, nebs
   --consider NPPV if fatigues
   --will hold on additional diuresis, ? component of preload dependence
   with decline related to volume depletion
   --continue broad empiric antbx to compelte 14 day course
   --I suspect a new superinfection is unlikely, however, given
   immunosuppression and now mild leukocytosis -- will repeat nosocomial
   infection workup and add empiric double GNR coverage
   #CHF
BNP elevated and initial concern for cardiogenic edema.  He has
   been diuresed and at this time does not appear volume overloaded, neck
   veins are flat,  cxr w/o evidence of pulm edema/effusion, labs s/o
   overdiuresis and his PO intake is minimal
   --will hold on additional lasix  at this time
   # ARF: BUN and cr increasing, suspect from diuresis,
   will hold lasix, monitor UOP, check urine sediment  and renally dose
   meds
   # Cavitary lung nodule: s/p FOB with BAL and biopsy, now growing, AFB,
   ----non-MTB, and penicillium species, final probe pending.
   --continue voriconazole
   # Hypereosinophilic syndrome:
   -continue prednisone and bactrim prophylaxis
   -defer further treatment to onc pending clinical improvement from acute
   resp issues
   # depression and goals of care
SW following, will initiate joint
   meeting with onc team to assess pt desired goals, consider starting
   mirtazapine
   #nutritonal status
Poor PO intake, nutrition input, ensure
   Remainder of plan per resident note.
   ICU Care
   Glycemic Control:
   Lines:
   PICC Line - [**2197-3-8**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  family updated at bedside
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   ------ Protected Section ------
   Addendum
   I met with Mrs. [**Known lastname 11548**], along with pt
s oncologist, pulmonary fellow
   [**First Name4 (NamePattern1) 8540**] [**Last Name (NamePattern1) 11617**], [**First Name4 (NamePattern1) 67**] [**Last Name (NamePattern1) 312**] social worker and pt
s nurse.  Updated
   to pt
s current status and answered all questions.  We discussed goals
   of care, options of consulting palliative care to assist, concerns
   about pt
s mood/  depression and nutritional status/ poor PO intake. We
   will also address these concerns directly with pt.  At this time we
   continue with current level of aggressive care.  We will ask for a
   formal swallow evaluation and nutrition consult.
   Crit care time spent in discussion and family mtg:  40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2197-3-9**] 08:27 PM ------

2197-03-10 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2197-3-10**] 06:11 AM
 URINE CULTURE - At [**2197-3-10**] 06:11 AM
   [**3-9**]
   - Did not start mirtazapine
   - XRay showed PICC line tip at level of low SVC without kinking.
   - Increased leukocytosis: so sent off second sputum, stool, urine, got
   CXR, checked LFTs
   - Met w/ heme/onc and wife: Wanted to continue with treatment
   - O2 weaned down to 50% fio2 and 4L nc; put out net 200cc earlier in
   the day but then 700cc net in; however, his sbp was persistently in the
   70s and as he was sating well on less oxygen did not give lasix.
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-3-8**] 08:00 AM
   Voriconazole - [**2197-3-9**] 08:00 AM
   Cefipime - [**2197-3-9**] 08:29 PM
   Vancomycin - [**2197-3-9**] 08:30 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2197-3-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2197-3-9**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 91 (91 - 112) bpm
   BP: 73/48(53) {70/46(51) - 89/62(67)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 63.7 kg
   Height: 67 Inch
             Total In:
                                                                  1,130 mL
                                                                     74 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    590 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    200 mL
   Urine:
                                                                    400 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GEN: Agitated, confused
   CV: RRR, no MRG, No JVD
   PULM: Tachypneic, no rales
   ABD: Soft, NTND +BS
   EXT: No edema
   Labs / Radiology
   86 K/uL
   8.4 g/dL
   93 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   62 mg/dL
   93 mEq/L
   127 mEq/L
   25.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
                             [**2197-3-8**]  11:01 PM
                             [**2197-3-9**]  04:01 AM
                             [**2197-3-10**]  05:45 AM
   WBC
   9.0
   10.2
   8.5
   11.1
   15.1
   Hct
   25.8
   27.8
   28.0
   27.6
   26.9
   25.0
   Plt
   67
   73
   80
   90
   86
   Cr
   1.3
   1.2
   1.2
   1.6
   1.6
   1.8
   2.0
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   106
   98
   93
   Other labs: PT / PTT / INR:17.3/39.8/1.6, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:12/42, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:3.0 %, Band:0.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:97.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L, Ca++:8.5
   mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR AP [**2197-3-9**]:
   Currently, the left PICC line tip is at the level of low SVC with no
   evidence
   of kinking. There is no short interval change in widespread parenchymal
   consolidations. The cardiomediastinal silhouette is unchanged.
   Microbiology: [**2197-3-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2197-3-10**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2197-3-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2197-3-9**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2197-3-8**]  Immunology (CMV) CMV Viral Load-PENDING INPATIENT
   [**2197-3-6**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2197-3-5**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2197-3-5**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2197-3-6**] 11:27 am SPUTUM      Source: Induced.
      GRAM STAIN (Final [**2197-3-6**]):
         [**11-13**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2197-3-8**]):
         MODERATE GROWTH Commensal Respiratory Flora.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2197-3-6**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2197-3-7**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
   Assessment and Plan
 HYPOXEMIA
 ALKALOSIS, RESPIRATORY
 PNEUMONIA, VIRAL
   RSV
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Hypereosinophilia
 ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Pt is a 60 y.o male with h.o hypereosinophilic syndrome on chemo
   (etoposide), DVT, CVA, afib, CHF EF (EF 30%), who presents with fever,
   cough, hypoxia and hypotension.
   #. Hypoxic Respiratory Failure: Continues to remain short of breath and
   tachypneic, now also with confusion which could also be contributed by
   hypoxemia.  Underlying process primarily secondary to progressive
   infection (RSV). CHF exacerbation on admission, but now appears
   dehydrated.  Continues to require supplemental oxygen despite diuresis
   and antibiotics for superimposed infection. Resp viral screen positive
   for RSV, sputum has preliminarily grown GPC, GPR, and GNR, and urine
   leg neg.  DFA negative for PCP. [**Name10 (NameIs) **] currently, cefepime, vanc, and
   vori to cover bacterial and fungal pna (recently has grown penicillium
   species in culture).  He has refused monoclonal antibody.  Cont to
   consider PE, though less likely. Increasing white count [**2-21**] worsening
   eosinophilia, however, possible resistant UTI, follow up cultures.
   - Add levoflox
   - Check vanc trough
   - Cont vanc, cefepime ([**3-5**] for 14 day course) and vori (fungal infxn)
   - Consider modifying tx for eosinophilic syndrome although risky given
   active infection. Nonetheless, pt is not going to clear his infection
   with 97% eosinophils
   - F/u sputum, blood, CMV and urine cx
   - Consider adding a second antibiotic [**Doctor Last Name **] for double gram negative
   coverage esp give UTI and hypotension
   - Hold on Lasix, as pt hypotensive and satting better
   - Patient has refused IV antibody paviluzameb
   - Incentive spirometry, guiafenesin, tesslon pearls to clear mucous
   - Appreciate hem/onc input
   - Morphine prn
   - We are likely moving toward CMO
   # Leukocytosis: Elevated WBC count today, though patient has been
   afebrile. UA notable for pyuria/bacturia, currently on vanc/cefepime.
   - F/u stool, blood, urine, stool and sputum
   - CXR today, f/u final report
   - Add levo, cont vanc/cefepime/vori
   # AMS: Likely delerium. Ddx includes ICU induced delerium, uremia [**2-21**]
   to ARF, infection (RSV and UTI), hypoNa
   - Gentle boluses of IVFs
   - Cont to treat vanc/cefepime and vori; add levo
   - Haldol prn
   # HypoNa: Likely [**2-21**] volume depletion
   - IVFs
   - Urine lytes
   #. Hypotension: Baseline in mid 80s
   - Cont to monitor hemodynamics
   - Continue to hold home BP meds,
   - IVFs
   #. hypereosinophilic syndrome- Currently tx with etoposide Q2 weeks.
   - f/u heme/onc recs
   - cont prednisone
   #. ARF-baseline 1-1.4: Elevated Cr to 1.8 s/p diuresis. Evidence of
   granular casts/cellular casts and possible UTI. No flank pain and
   afebrile to suggest pyelo.
   - Monitor creatinine
   -
   - Hold ace-i
   #. CHF-EF 30%. Secondary to eosinophilic syndrome. On admission,
   patient w/ some evidence of volume overload now s/p diuresis with some
   improvement in shortness of breath, though CXR continues to show
   diffuse infiltrates and patient remains with oxygen requirement.  Have
   contact[**Name (NI) **] outpatient cardiologist who agrees w/ diuresis and holding
   anti-hypertensives for now.
   - strict Is and Os, daily weights
   - Continue holding ace-i/bb given low bps as well as ARF for ace-i
   - hold diuresis as pt likely volume deplete to goal even
   #. s/p CVA-CT head negative for ischemic/hemorrhagic event.
   #. afib-stable
   #. Tachycardia: Sinus tach, stable. Secondary to hypoxia, infx.
   - Monitor
   # Mood/Nutrition: Poor po intake worse since admission.  Per wife,
   concerned that patient is giving up, and is frustrated.
   - Consider mertazapine for mood and poor appetite
   - Add ensure tid w/ meals
   - Nutrition consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-3-8**] 03:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2197-3-8**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2197-03-10 09:16:00 Physician Attending Progress Note
Chief Complaint: resp distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 60M h/o hypereosinophilic syndrome tx with etoposide, h/o CVA,
   a-fib, CHF (EF 30% 8/09), [**Last Name (un) **] syndrome with recent admission for
   cavitating lesion of lung, FOB/BAL(now growing AFB, non-MTB, and
   penicillium species but final probe pending) p/w sepsis and progressive
   bl ASD/hypoxermia found to have RSV infection course c/b ARF
   24 Hour Events:
 BLOOD CULTURED - At [**2197-3-10**] 06:11 AM
 URINE CULTURE - At [**2197-3-10**] 06:11 AM
   held family meeting to address GOC
   O2 weaned to 50% + 4L NC
   diuresis held
   confused / agitated this morning-> haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2197-3-8**] 08:00 AM
   Voriconazole - [**2197-3-9**] 08:00 AM
   Cefipime - [**2197-3-9**] 08:29 PM
   Vancomycin - [**2197-3-9**] 08:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2197-3-9**] 08:29 PM
   Other medications:
   per [**Month (only) **]-reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-3-10**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**99**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 91 (91 - 112) bpm
   BP: 73/48(53) {70/46(51) - 89/62(67)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 63.7 kg
   Height: 67 Inch
             Total In:
                                                                  1,130 mL
                                                                     87 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    590 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    200 mL
   Urine:
                                                                    400 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Now alert, answering questions appropriately
   NAD but tired appearing, flat JVP
   Rales
   RR
   + BS, soft, NT
   Labs / Radiology
   8.4 g/dL
   86 K/uL
   93 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   62 mg/dL
   93 mEq/L
   127 mEq/L
   25.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2197-3-5**]  09:50 PM
                             [**2197-3-6**]  05:32 AM
                             [**2197-3-6**]  04:28 PM
                             [**2197-3-7**]  04:28 AM
                             [**2197-3-7**]  07:41 AM
                             [**2197-3-8**]  03:14 AM
                             [**2197-3-8**]  11:01 PM
                             [**2197-3-9**]  04:01 AM
                             [**2197-3-10**]  05:45 AM
   WBC
   9.0
   10.2
   8.5
   11.1
   15.1
   Hct
   25.8
   27.8
   28.0
   27.6
   26.9
   25.0
   Plt
   67
   73
   80
   90
   86
   Cr
   1.3
   1.2
   1.2
   1.6
   1.6
   1.8
   2.0
   TropT
   0.22
   0.26
   TCO2
   25
   Glucose
   115
   115
   89
   93
   106
   98
   93
   Other labs: PT / PTT / INR:17.3/39.8/1.6, CK / CKMB /
   Troponin-T:48/7/0.26, ALT / AST:12/42, Alk Phos / T Bili:92/0.4,
   Differential-Neuts:3.0 %, Band:0.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:97.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:645 IU/L, Ca++:8.1
   mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr yesterday without new focal process, stable diffuse b ASD
   Assessment and Plan
   Problems include:
         [**Name2 (NI) 11634**]
         leukocytosis
         hypoxic resp failure
        --RSV pna
        --Presumed bacterial superinf
        --Pulm edema (ards/cardiogenic)
         ARF
         Hyponatremia
         FTT/poor nutritional status
         Cavitary lung nodule ([**Doctor First Name **], penicillium)
         Hypereosinophilic syndrome
   Remains hypoxic, no improvement after diuresis and now with progressive
   ARF.  Clinically with slow decline.  Suspect his chronic
   hypereosinophilia is further complicating his picture, but in setting
   of underlying infection we are very limited in terms of treatment
   options.  We continue supportive care with cough suppression, nebs,
   morphine for air hunger, broad empiric antbx.  Will follow VBG and
   consider NPPV if pt will tolerate in setting of fatigue.
   Suspect the increased leukocytosis is from his eosinophilia, but will
   pursue infection eval (repeat ua/cx, c diff) and add levo for double GN
   coverage. He has remained AF, BP low from his low baseline.
   His ARF is most likely pre-renal from diuresis and poor PO. Bactrim
   could be contributing. He appears dry on exam. We continue to hold
   lasix and will give slow IVF, following uop and urine lytes.  Will
   renally dose meds and avoid nephrotoxins.
   In terms of delirium-this is likely multifactorial-- sundowning, poor
   sleep, uremia, hypoxemia, poor PO, hyponatremia. He is now clear after
   haldol.  Will optimize sleep wake as possible, use haldol or zydis,
   slow IVF bolus.
   His hyponatremia is most likely hypovolemic and we will monitor with
   hydration.
   He remains on vori for his lung cavitary lesion, prednisone for HES.
   His prognosis is poor and he seems tired.  We will continue to work
   with oncology and address pt desired GOC, have discussed palliative
   option and will readdress this.  Nutrition remains problem[**Name (NI) 555**].  [**Name2 (NI) **]
   pursue swallow eval pending GOC discussion.
   Remainder of plan per resident note.
   ICU Care
   Nutrition: NPO until MS [**First Name (Titles) 475**]
[**Last Name (Titles) 2108**]mic Control:
   Lines:
   PICC Line - [**2197-3-8**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments: wife updated at bedside
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Goal
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2197-3-10**] 15:38 ------
   Addendum
   GOC discussion with pt and his wife.  Oncology involved as well.  Pt at
   this time wishes to transition to aggressive comfort.  All questions
   answered. Pt not interested in home hospice but prefers to remain in
   hospital at this time.  Will discontinue blood draws, fluids and
   antbx.  Palliative care consulted.  Will use ativan for anxiety and
   morphine for airhunger/pain. Can transfer to private floor room.
   Crit care time spent in discussion and meetings: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2197-3-10**] 04:26 PM ------